US05146003
These compounds can be synthesized as follows. D-camphor or L-camphor is reacted with isoamyl nitrite in the presence of metallic sodium, and the product is reduced with lithium aluminum hydride to obtain 3-amino-2-hydroxybornane. The resulting 3-amino-2-hydroxybornane is reacted with furoyl chloride, 2-thiophenecarbonyl chloride-, or benzoyl chloride in the presence of pyridine or 4-dimethylaminopyridine, or it is subjected to a dehydrating reaction with furfural, 1-methyl-2-pyrrolecarbaldehyde, 1-benzyloxycarbonyl-L-proline, or benzaldehyde in the presence of a dehydrating agent. The resulting product is then reduced with lithium aluminum hydride to obtain a 3-amino-2-hydroxybornane derivative of exo or endo form.

reactant | D-camphor | C[C@@]12CC[C@@H](C1(C)C)CC2=O | C10H16O
reactant | L-camphor | C[C@]12CC[C@H](C1(C)C)CC2=O | C10H16O
reactant | isoamyl nitrite | N(=O)OCCC(C)C | C5H11NO2
reactant | sodium | [Na] | Na
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 3-amino-2-hydroxybornane | NC1C(C2(CCC1C2(C)C)C)O | C10H19NO
